.title kicad schematic

.include PNP.lib
.include D.lib
.include NPN.lib
r4 /pin_4_v-_ net-_q1-pad3_ 20k
r2 /pin_1_fast_rc_ /pin_8_slow_rc_ 6k
d1 /pin_4_v-_ /pin_2_out_ 1N4148
r3 /pin_4_v-_ /pin_1_fast_rc_ 3k
* u1 /pin_1_fast_rc_ /pin_2_out_ unconnected-_u1-pad3_ /pin_4_v-_ /pin_5_v+_ /pin_6_rl_ unconnected-_u1-pad7_ /pin_8_slow_rc_ port
r6 net-_q1-pad3_ net-_q2-pad2_ 10k
q2 net-_q2-pad1_ net-_q2-pad2_ net-_q2-pad3_ Q2N2222
q5 net-_q3-pad2_ net-_q2-pad1_ /pin_5_v+_ Q2N2907A
q3 /pin_2_out_ net-_q3-pad2_ /pin_4_v-_ Q2N2222
r7 /pin_8_slow_rc_ net-_q2-pad3_ 100
r5 net-_q2-pad2_ net-_q1-pad2_ 20k
r8 net-_q1-pad2_ /pin_5_v+_ 400
r9 /pin_2_out_ net-_q1-pad2_ 400
q4 net-_q2-pad1_ net-_q2-pad1_ /pin_5_v+_ Q2N2907A
q1 /pin_5_v+_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
r1 /pin_6_rl_ /pin_5_v+_ 12
.tran 1e-03 0.1e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
